***********************************************************************
*  (C) Copyright 2013 Texas Instruments Incorporated. All rights reserved.
***********************************************************************
***********************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose. The model is
** provided solely on an "as is" basis. The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* Released by: WEBENCH(R) Design Center, Texas Instruments Inc.
* Part: CSD13303W1015
* Date: 11/08/2013
* Model Type: Transient
* Simulator: PSpice
* Simulator Version: 16.2
* EVM Order Number: 
* EVM Users Guide: 
* Datasheet: SLPS298A - MAY 2012 - REVISED MAY 2012
* Model Version: Final 1.00
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web
*
*****************************************************************************
*
* Model Usage Notes:
*
*****************************************************************************
**********************************************************************
**********************************************************************
*                                                                    *
* csd13303w1015   -  PSpice Model for use with OrCAD/Allegro           *
*                                                                    *
**********************************************************************
**********************************************************************    
* SUBCKT Definition:  1=D  2=G  3=S
**********************************************************************
.SUBCKT CSD13303W1015   1 2 3
.PARAM  ptrc1   3.25e-3  
.PARAM  ptrc2   7.00e-6
.PARAM  pwidthP 0.64992307692307692307692307692308
.PARAM  pwidth  {pwidthP*1e6}
.PARAM  perimP  {2.1*pwidthP}
.PARAM  perim   {perimP*1e6}
.PARAM  Rgate  0
M1   10 11 12 12  NMOS	W={pwidthP} L=0.4u  PD={perimP} PS={perimP}
DBD   8  7	 DBD
RDB   8  7   1e10
CGD0  5  7	 1E-12
CGS0  5  8	 2e-12
CDS0 10 12	 5e-12
M2   12 11 12 20  PMOSd W={pwidthP} L=0.15u  PD={perimP} PS={perimP}
DDx  20 10   DDx
DDG  14  5   DD
DGD  14 10   DD
* Note:  gate oxide capacitance included in NMOS below
CGS   5 13	 105E-12
RGS  13  8	 47.50
LGG   2  5	 0.1e-9
RGG   5 11	 {3.0+ Rgate}
RSB  12  9	 RTEMP 3.05e-3
RSS   9  8 	 RTEMP 2.05e-3
RSP   8  6 	 1.75e-3
LSS   6  3	 0.05E-9
RDP   4  7	 3.30e-3
RDD   7 10 	 RTEMP 4.00e-3
LDD   1  4	 0.05E-9
******************************************************************* 
.MODEL  NMOS   NMOS (    LEVEL  = 7             Version = 3.2
+ TNOM   = 27            LINT   = 0.055e-6      CAPMOD = 2
+ TOX    = 1.20e-8       NCH    = 1.675e17      NSUB   = 1.0e16
+ AGS    = 0.0           PVAG   = 0.2           U0     = 400
+ A0     = 1.10          A1     = 0.0           A2     = 0.9
+ UA     = 0.6e-9        UB     = 2.5e-18       VBM    = -5.0
+ UA1    = 1.0e-9        UB1    = -1.0e-18      UTE    = -1.50
+ KT1    = -0.45         KT2    = 0.022         KT1L   = 1.0e-12
+ DVT0   = 2.5           DVT1   = 0.62	      DVT2   = -0.033
+ ETA0   = 0.045         ETAB   = -0.07         XJ     = 4e-7
+ PDIBLC1= 0.08          PDIBLC2= 0.025         NLX    = 1.78e-7
+ PSCBE1 = 4.0e8         PSCBE2 = 1e-7          PCLM   = 7.5
+ VOFF   = -0.15         NFACTOR= 1.9           JS     = 0
+ DROUT  = 0.8           DSUB   = 1.2           DELTA  = 0.015
+ CJ     = 1e-18         CJSW   = 1e-18         CF     = 0
+ CGSO   = 249e-12        CGDO   = 5e-12         CGBO   = 0    )
******************************************************************* 
.MODEL  PMOSd   PMOS (   LEVEL  = 1
+ TNOM   = 27            VTO    = -0.3		IS     = 5.0e-14
+ TOX    = 1.20e-8       NSUB   = 1.0e18		gamma	= 0.75
+ CJ     = 1e-18         CJSW   = 1e-18
+ CGSO   = 1e-18         CGDO   = 1e-18         CGBO   = 1e-18 )
******************************************************************* 
.MODEL DBD D (CJO=654e-12 VJ=1.0 M=0.30 FC=0.5 TT=3e-09 TNOM=27
+  IS=5.0e-11 N=1.05  RS=20.0e-3 TRS1=3.9e-3 XTI=-2.0 BV=14)
.MODEL DDx D (CJO=15e-12 VJ=0.40 M=0.40 IS=1e-12 RS=0.1 TNOM=27)
.MODEL DD  D (CJO=75e-12 VJ=0.40 M=0.39 IS=1e-13 RS=1 TNOM=27 BV=13)
.MODEL DCLAMP  D (CJO=1.0e-12 VJ=0.50 M=0.45 IS=1.5e-12 RS=1.0
+  TRS1=5e-4 XTI=2.8 TNOM=27 BV=6.5 TBV1=-2.5e-5)
******************************************************************* 
.MODEL RTEMP RES (TC1={ptrc1} TC2={ptrc2})
*******************************************************************
.ENDS CSD13303W1015